US07842701B2
2-{[3-amino-7-methoxy-2-(2-methylphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-9-yl]oxy}-N-[2-(dimethylamino)ethyl]acetamide
A mixture of {[3-amino-7-methoxy-2-(2-methylphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-9-yl]oxy}acetic acid (80 mg), N,N-dimethylethylenediamine (33 μl), (3-dimethylaminopropyl)ethylcarbodiimide hydrochloride (58 mg), 1-hydroxybenzotriazole (41 mg), triethylamine (43 μl) and N,N-dimethylformamide (2 ml) was stirred at room temperature for one night. The reaction mixture was concentrated under reduced pressure, and the residue was purified with column chromatography to obtain the target compound (61 mg).

reactant | {[3-amino-7-methoxy-2-(2-methylphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-9-yl]oxy}acetic acid | 80 mg | NC=1N(N=C2C1C(NC=1C=C(C=C(C21)OCC(=O)O)OC)=O)C2=C(C=CC=C2)C | C20H18N4O5
reactant | N,N-dimethylethylenediamine | 33 μl | CN(CCN)C | C4H12N2
reactant | (3-dimethylaminopropyl)ethylcarbodiimide hydrochloride | 58 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 41 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 43 μl | C(C)N(CC)CC | C6H15N
product | 2-{[3-amino-7-methoxy-2-(2-methylphenyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-9-yl]oxy}-N-[2-(dimethylamino)ethyl]acetamide | 61 mg | NC=1N(N=C2C1C(NC=1C=C(C=C(C21)OCC(=O)NCCN(C)C)OC)=O)C2=C(C=CC=C2)C | C24H28N6O4
